US08222416B2
A mixture of 2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (170 mg, 4.5 mmol) and 10% palladium on activated carbon (51 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) and kept for 6 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (60 mg, 35%) as a white solid: LC/MS m/e calcd for C21H21F3N2O [M+H]+ 375.41, observed 375.4; 1H NMR (400 MHz, CDCl3) δ ppm 8.12 (d, J=4.5 Hz, 1H), 7.92 (d, J=7.6 Hz, 1H), 7.49-7.58 (m, J=8.1 Hz, 2H), 7.39-7.47 (m, J=8.1 Hz, 2H), 7.09 (dd, J=7.6, 5.1 Hz, 1H), 6.36 (s, 1H), 4.39 (t, J=7.8 Hz, 1H), 3.92 (d, J=11.1 Hz, 2H), 3.27 (t, J=11.6 Hz, 2H), 2.26 (dt, J=14.1, 7.2 Hz, 1H), 2.03 (dt, J=14.0, 7.0 Hz, 1H), 1.66 (d, J=12.4 Hz, 2H), 1.33-1.56 (m, 3H).

reactant | 2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 4.5 mmol, 170 mg | O1CCC(CC1)C=C(C1=CC=C(C=C1)C(F)(F)F)C1=CC=2C(=NC=CC2)N1 | C21H19F3N2O
catalyst | palladium on activated carbon | 51 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 60 mg, 35% | O1CCC(CC1)CC(C1=CC=C(C=C1)C(F)(F)F)C1=CC=2C(=NC=CC2)N1 | C21H21F3N2O
